US07569578B2
(±)-tert-Butyl 1-(1-(4-tert-Butylbenzyl)-1H-imidazol-2-yl)-2-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)ethylcarbamate
(tert-Butyl-1-(1H-imidazol-2-yl)-2-(7-methyl-2-[{2-[trimethylsilyl]ethoxy}methyl]-2H-indazol-5-yl)ethylcarbamate (40 mg, 0.085 mmol), 4-(tert-Butyl)-benzyl bromide (16.3 μL, 0.089 mmol, 1.05 equiv), and potassium carbonate (23.5 mg, 0.17 mmol) were combined in dimethylformamide (1.0 mL). After stirring at room temperature for 16 h, the solvents were removed and the residue purified by column chromatography to afford 36.0 mg (79%). Mass spec.: 618.6 (MH)+.

reactant | tert-Butyl-1-(1H-imidazol-2-yl)-2-(7-methyl-2-[{2-[trimethylsilyl]ethoxy}methyl]-2H-indazol-5-yl)ethylcarbamate | 0.085 mmol, 40 mg | C(C)(C)(C)OC(NC(CC1=CC2=CN(N=C2C(=C1)C)COCC[Si](C)(C)C)C=1NC=CN1)=O | C24H37N5O3Si
reactant | 4-(tert-Butyl)-benzyl bromide | 0.089 mmol, 16.3 μL, 1.05 equiv | C(C)(C)(C)C1=CC=C(CBr)C=C1 | C11H15Br
reactant | potassium carbonate | 0.17 mmol, 23.5 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
product | (±)-tert-Butyl 1-(1-(4-tert-Butylbenzyl)-1H-imidazol-2-yl)-2-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)ethylcarbamate | C(C)(C)(C)C1=CC=C(CN2C(=NC=C2)C(CC2=CC3=CN(N=C3C(=C2)C)COCC[Si](C)(C)C)NC(OC(C)(C)C)=O)C=C1 | C35H51N5O3Si
